US08034812B2
Production of N-[3-(1-cyano-1-methylethyl)phenyl]-3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzamide
Using 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoic acid (100 mg, 0.30 mmol), 2-(3-aminophenyl)-2-methylpropanenitrile (57 mg, 0.36 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (68 mg, 0.36 mmol), 4-(dimethylamino)pyridine (43 mg, 0.36 mmol) and pyridine (5.0 mL) as starting materials and in the same manner as in Example 318, the title compound (64 mg, 45%) was obtained as a white powder.

reactant | 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoic acid | 0.30 mmol, 100 mg | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C(=O)O)C=CC2)C1 | C17H14N4O4
reactant | 2-(3-aminophenyl)-2-methylpropanenitrile | 0.36 mmol, 57 mg | NC=1C=C(C=CC1)C(C#N)(C)C | C10H12N2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.36 mmol, 68 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 0.36 mmol, 43 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 5.0 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(1-cyano-1-methylethyl)phenyl]-3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzamide | 64 mg, 45% | C(#N)C(C)(C)C=1C=C(C=CC1)NC(C1=CC(=CC=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)=O | C27H24N6O3
